US05691330
A mixture of 1.0 g of 2-(2-chloroethyl)-3-ethyl-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one, 1.0 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride, 4.0 g of potassium carbonate and 1.5 g of potassium iodide in 25 ml of dimethylformamide and 25 ml of toluene was stirred at 100° C. for 3 hours and poured into water. The toluene layer was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel and recrystallized from isopropyl alcohol to give 0.45 g of 3-ethyl-2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one 3/4hydrate, m.p. 115°-117° C.

reactant | 2-(2-chloroethyl)-3-ethyl-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one | 1.0 g | ClCCC1=C(C=2NC(CCCC2S1)=O)CC | C12H16ClNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.0 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.5 g | [I-].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-ethyl-2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one | 0.45 g | C(C)C1=C(SC2=C1NC(CCC2)=O)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C24H28FN3O2S
